US05223525
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulphinylimidazole
To a solution of 800 mg (1.93 mmole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulfenylimidazole in trifluoroacetic acid was added 0.20 ml of 30% hydrogen peroxide at 0° C. The resulting mixture was stirred at 0° C. for 4 h and then at RT for 50 h. The mixture was evaporated at RT and the residue was partitioned between methylene chloride and a saturated aqueous sodium bisulfite solution. The organic layer was washed with an aqueous sodium bicarbonate solution and the organic layer was evaporated. The residue was purified by flash column chromatography on silica gel using 5% ethyl acetate in hexane. After the solvent was removed there was obtained 300 mg (36.02% yield) of the desired product as a white solid, mp 147.5° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulfenylimidazole | 1.93 mmole, 800 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1)SC(F)(F)F)Cl | C11H3Cl3F6N2S
reactant | hydrogen peroxide | 0.20 ml | OO | H2O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulphinylimidazole | 300 mg, 36.02% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1)S(=O)C(F)(F)F)Cl | C11H3Cl3F6N2OS
